US07468376B2
4-[5-[2-[(Cyclopropylmethyl)amino]pyrimidin-4-yl]-6-(4-fluorophenyl)-2-methylpyrazolo[3,4-b]pyridin-4-yl]phenol
Following a similar procedure to that described in example 128, but starting from 4-[6-(4-fluorophenyl)-5-(2-methylsulfonylpyrimidin-4-yl)-2-methylpyrazolo[3,4-b]pyridin-4-yl]phenol (obtained in section b) and (cyclopropylmethyl)amine, the title compound was obtained.

reactant | 4-[6-(4-fluorophenyl)-5-(2-methylsulfonylpyrimidin-4-yl)-2-methylpyrazolo[3,4-b]pyridin-4-yl]phenol | FC1=CC=C(C=C1)C=1C(=C(C=2C(N1)=NN(C2)C)C2=CC=C(C=C2)O)C2=NC(=NC=C2)S(=O)(=O)C | C24H18FN5O3S
reactant | (cyclopropylmethyl)amine | C1(CC1)CN | C4H9N
product | 4-[5-[2-[(Cyclopropylmethyl)amino]pyrimidin-4-yl]-6-(4-fluorophenyl)-2-methylpyrazolo[3,4-b]pyridin-4-yl]phenol | C1(CC1)CNC1=NC=CC(=N1)C1=C(C=2C(N=C1C1=CC=C(C=C1)F)=NN(C2)C)C2=CC=C(C=C2)O | C27H23FN6O
